US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(4-fluorophenethyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 1-(2-bromoethyl)-4-fluorobenzene. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.46 (d, J=1.6 Hz, 1 H), 7.18-7.07 (m, 3 H), 6.99-6.89 (m, 4 H), 6.31 (dd, J=3.5, 7.6 Hz, 1 H), 5.52 (d, J=6.0 Hz, 1 H), 4.82-4.73 (m, 1 H), 4.68-4.58 (m, 1 H), 4.30 (t, J=5.1 Hz, 2 H), 3.16 (tq, J=7.0, 14.3 Hz, 2 H), 2.94-2.77 (m, 5 H), 2.15-2.04 (m, 2 H), 0.99-0.89 (s, 9 H); LC/MS (m/z) ES+=517.4 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 1-(2-bromoethyl)-4-fluorobenzene | BrCCC1=CC=C(C=C1)F | C8H8BrF
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(4-fluorophenethyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CCC2=CC=C(C=C2)F)C=2C=C1CCCOC1=CC2 | C31H33FN2O4
